US05498748
To a suspension of 4-hydroxy-3-methoxybenzoic acid (25 g, 0.15 mole) in ethanol (150 ml), 2N NaOH aq. (74.3 g, 0.15 mole) and benzyl chloride (56.5 g, 0.45 mole) were added, continued to stir for 1 hour under reflux, then 5N NaOH aq. (150 ml) was added dropwise with stirring under reflux, and continued to stir for 1 hour under reflux. After reaction, the solvent was removed, and H2O was added to the residue and acidified with conc. hydrochloric acid to make pH 1. The resulting precipitate was filtered, washed with H2O and dried to give 22.1 g of 4-benzyloxy-3-methoxybenzoic acid as pale yellow crystals having a m.p. of 171°-172.5°.

reactant | 4-hydroxy-3-methoxybenzoic acid | 0.15 mole, 25 g | OC1=C(C=C(C(=O)O)C=C1)OC | C8H8O4
reactant | NaOH | 0.15 mole, 2N, 74.3 g | [OH-].[Na+]
reactant | benzyl chloride | 0.45 mole, 56.5 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | NaOH | 5N, 150 ml | [OH-].[Na+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 4-benzyloxy-3-methoxybenzoic acid | 22.1 g | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)O)C=C1)OC | C15H14O4
